US06207665B1
To a solution of 4-(4-fluorobenzyl)-1-((4-chlorophenoxy)methyl)carbonyl-2-(2-hydroxyethyl)piperazine (0.134 g, 0.33 mmol) and triphenylphosphine (0.100 g) in THF (6 mL) at 0° C. was added diethyl azodicarboxylate (0.060 mL) and diphenylphosphoryl azide (0.081 mL). The mixture was stirred at ambient temperature for 2 days, then concentrated of volatiles in vacuo. Purification by flash column chromatography on silica gel afforded 0.047 g of 1-((4-chlorophenoxy)methyl)carbonyl-2-(2-azidoethyl)-4-(4-fluorobenzyl)piperazine as a clear, colorless oil; NMR (CDCl3) 7.3 (m, 4), 7.0 (t, 2), 6.9 (d, 2), 4.7 (m, 3), 4.4 (br d, 1), 4.3 (m, 1), 4.1 (m, 1), 3.5-3.1 (m, 4), 2.8 (d, 1), 2.7 (d, 1), 2.1 (m, 2), 1.8 (m, 1) ppm.

reactant | 4-(4-fluorobenzyl)-1-((4-chlorophenoxy)methyl)carbonyl-2-(2-hydroxyethyl)piperazine | 0.33 mmol, 0.134 g | FC1=CC=C(CN2CC(N(CC2)C(=O)COC2=CC=C(C=C2)Cl)CCO)C=C1 | C21H24ClFN2O3
reactant | triphenylphosphine | 0.100 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.060 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diphenylphosphoryl azide | 0.081 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 1-((4-chlorophenoxy)methyl)carbonyl-2-(2-azidoethyl)-4-(4-fluorobenzyl)piperazine | 0.047 g | ClC1=CC=C(OCC(=O)N2C(CN(CC2)CC2=CC=C(C=C2)F)CCN=[N+]=[N-])C=C1 | C21H23ClFN5O2
